US07511136B2
2-(6-{[tert-butyl(dimethyl)silyl]oxy}-1H-indazol-3-yl)-1H-isoindole-1,3(2H)-dione
To a suspension of 15.03 g (53.82 mmol) of 2-({6-hydroxy}-1H-indazol-3-yl)-1H-isoindole-1,3(2H)-dione in 150 ml of dichloromethane, a solution of 20.19 g (0.134 mol) of TBDMS chloride in 75 ml of dichloromethane was added. The resulting mixture was treated dropwise with 12.06 ml (80.73 mmol) of 1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU) at room temperature, obtaining a clear solution. After 3 hours the reaction mixture was poured in 250 ml of 0.5 N HCl. The aqueous layer was separated and extracted with 120 ml of dichloromethane. Organic extracts were dried over sodium sulfate and the solvent evaporated under vacuum. The moist raw product was stirred in 50 ml of ethyl acetate at 50° C. Then, about one half of the solvent was evaporated under vacuum and the mixture was treated dropwise with 100 ml of cyclohexane. The product was isolated by suction as light yellow solid (15.04 g). Yield=71.0%. mp=207-209° C.

reactant | 2-({6-hydroxy}-1H-indazol-3-yl)-1H-isoindole-1,3(2H)-dione | 53.82 mmol, 15.03 g | OC1=CC=C2C(=NNC2=C1)N1C(C2=CC=CC=C2C1=O)=O | C15H9N3O3
reactant | TBDMS chloride | 0.134 mol, 20.19 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 80.73 mmol, 12.06 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | HCl | 0.5 N, 250 ml | Cl | ClH
product | 2-(6-{[tert-butyl(dimethyl)silyl]oxy}-1H-indazol-3-yl)-1H-isoindole-1,3(2H)-dione | 15.04 g, Yield=71.0% | [Si](C)(C)(C(C)(C)C)OC1=CC=C2C(=NNC2=C1)N1C(C2=CC=CC=C2C1=O)=O | C21H23N3O3Si
